US06982348B2
6) (4RS,5SR)-5-(4-fluorophenyl)-4-[3-(isopropyloxy)benzyl]-1,3-oxazolidin-2-one
To a solution of (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoic acid (7.14 g, 21.5 mmol) in tetrahydrofuran (100 ml) were added diphenylphosphoryl azide (6.0 ml, 27.9 mmol) and triethylamine (4.19 ml, 30.1 mmol), and the mixture was stirred at room temperature for 1 hr. The mixture was heated under reflux for 5 hrs. and concentrated under reduced pressure. The saturated aqueous sodium hydrogen carbonate (100 ml) was added and the mixture was extracted with ethyl acetate (200 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1-2:1) to give the-objective substance (14.7 g, 91%).

reactant | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoic acid | 21.5 mmol, 7.14 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C)C)O | C19H21FO4
reactant | diphenylphosphoryl azide | 27.9 mmol, 6.0 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 30.1 mmol, 4.19 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-fluorophenyl)-4-[3-(isopropyloxy)benzyl]-1,3-oxazolidin-2-one | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C)C | C19H20FNO3
